US09255100B2
3,6,8-tribromoimidazo[1,2-b]pyridazine
To a stirred suspension of 100.00 g (361.1 mmol) 6,8-dibromoimidazo[1,2-b]pyridazine, which was prepared according to intermediate example 96d, in 1.6 L acetic acid were added 69.2 g (433.3 mmol) bromine at it and the mixture was stirred for 1 h. The precipitate was filtered, washed with water and dissolved in 10 L DCM. The organic üphase was washed with saturated sodium hydrogen carbonate solution, dried over sodium sulfate, filtered and evaporated to give 81.99 g (64%) of the title compound.

reactant | 6,8-dibromoimidazo[1,2-b]pyridazine | 361.1 mmol, 100.00 g | BrC=1C=C(C=2N(N1)C=CN2)Br | C6H3Br2N3
reactant | bromine | 433.3 mmol, 69.2 g | BrBr | Br2
solvent | acetic acid | 1.6 L | C(C)(=O)O | C2H4O2
product | 3,6,8-tribromoimidazo[1,2-b]pyridazine | 81.99 g, 64% | BrC1=CN=C2N1N=C(C=C2Br)Br | C6H2Br3N3
